US06156700
Preparation of Ethyl 5-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate
A mixture of ethyl 5-amino-1,2-benzisothiazole-3-acetate (0.748 g, 3.16 mmol) and 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one (0.660 g, 3.17 mmol) in acetic acid is refluxed for three hours, concentrated in vacuo, and diluted with saturated sodium hydrogen carbonate solution. The resultant mixture is extracted with methylene chloride. The combined organic extracts are washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a tan solid which is identified by NMR spectral analysis.

reactant | ethyl 5-amino-1,2-benzisothiazole-3-acetate | 3.16 mmol, 0.748 g | NC=1C=CC2=C(C(=NS2)CC(=O)OCC)C1 | C11H12N2O2S
reactant | 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one | 3.17 mmol, 0.660 g | CN(C=1OC(C=C(N1)C(F)(F)F)=O)C | C7H7F3N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 5-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate | O=C1N(C(C=C(N1)C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)OCC)C1 | C16H12F3N3O4S
